US05998442
[2-(2-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone
By the method described in Example 1, [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]-methanone (1.0 g, 2.29 mmol) in chlorobenzene (10 mL) was treated with a 0.65 M THF solution of 2-methoxyphenylmagnesium bromide (11.0 mL, 7.11 mmol) (prepared from 2-bromoanisole, catalytic iodide, and magnesium turnings in THF) to provide after chromatography (silica gel, 5-10% MeOH in CH2Cl2) 710 mg (62%) of the title compound as a yellow foam: 1H NMR d 1.44 (m, 2H), 1.60 (m, 4H), 2.48 (m, 4H), 2.72 (t, J=5.9 Hz, 2H), 3.51 (s, 3H), 3.87 (s, 3H), 4.06 (t, J=5.9 Hz, 2H), 6.65 (d, J=8.2 Hz, 1H), 6.73 (d, J=8.6 Hz, 2H), 6.89 (t, J=7.4 Hz, 1H), 6.98 (d, J=8.9 Hz, 1H), 7.17 (t, J=7.7 Hz, 1H), 7.33 (s, 1H), 7.41 (d, J=7.4 Hz, 1H), 7.68 (d, J=8.9 Hz, 1H), 7.75 (d, J=8.6 Hz, 1H); 13C NMR d 23.6, 25.4, 54.0, 54.6, 55.1, 57.2, 65.6, 103.6, 104.9, 110.2, 113.2, 114.2, 120.1, 122.2, 124.1, 129.6, 130.1, 130.9, 131.5, 133.0, 139.3, 140.0, 155.3, 157.0, 161.9, 191.1; MS (FD) m/e 501 (M+).

reactant | [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]-methanone | 2.29 mmol, 1.0 g | CN(C=1SC2=C(C1C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C2)OC)C | C25H30N2O3S
reactant | THF | 0.65 M | C1CCOC1 | C4H8O
reactant | 2-methoxyphenylmagnesium bromide | 7.11 mmol, 11.0 mL | COC1=C(C=CC=C1)[Mg]Br
reactant | MeOH | CO | CH4O
solvent | chlorobenzene | 10 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [2-(2-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 710 mg, 62% | COC1=C(C=CC=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)OCCN2CCCCC2 | C30H31NO4S
